US08309734B2
Step 1: 2-(2,4-Dichloro-phenoxy)-nicotinic acid
To a solution of 2-chloro-nicotinic acid (2.15 g, 13.65 mmol, 1.0 equiv; [CAS RN 2942-59-8]) and 2,4-dichloro-phenol (2.22 g, 13.65 mmol, 1.0 equiv; [CAS RN 120-83-2]) in toluene (40 mL) was added caesium carbonate (8.89 g, 27.29 mmol, 2.0 equiv; [CAS RN 534-17-8]) and tetrakis(acetonitrile)copper(I) hexafluorophosphate (1.02 g, 2.73 mmol, 0.2 equiv; [CAS RN 64443-05-6]). The reaction mixture was heated to reflux over night. The solvent was evaporated under reduced pressure and the crude reaction product taken up in water (100 mL) acidified to pH 1 by addition of a solution of 1 M HCl and extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4 and the product purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of dichloromethane/methanol affording 1.69 g (44%) of the title compound as an off-white solid. 1H NMR (400 MHz, DMSO): δ7.26 (dd, J=7.6 Hz, J=4.8 Hz, 1H), 7.36 (d, J=8.7 Hz, 1H), 7.49 (dd, J=8.7 Hz, J=2.6 Hz, 1H), 7.76 (d, J=2.4 Hz, 1H), 8.25 (dd, J=4.8 Hz, J=2.2 Hz, 1H), 8.30 (dd, J=7.5 Hz, J=2.2 Hz, 1H), 13.33 (s, 1H). MS (ISN): 282.3 [M−H]−.

reactant | 2-chloro-nicotinic acid | 13.65 mmol, 2.15 g, 1.0 equiv | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 2,4-dichloro-phenol | 13.65 mmol, 2.22 g, 1.0 equiv | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | caesium carbonate | 27.29 mmol, 8.89 g, 2.0 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1 M | Cl | ClH
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(acetonitrile)copper(I) hexafluorophosphate | 2.73 mmol, 1.02 g, 0.2 equiv | CC#N.CC#N.CC#N.CC#N.F[P-](F)(F)(F)(F)F.[Cu+]
product | 2-(2,4-Dichloro-phenoxy)-nicotinic acid | ClC1=C(OC2=C(C(=O)O)C=CC=N2)C=CC(=C1)Cl | C12H7Cl2NO3
